US06734198B1
2-Mercaptothiazole (5.18 g), potassium carbonate (6.72 g) and 4-bromo-1,1,2-trifluorobutene-1 (9.21 g) are refluxed in acetonitrile (60 ml) in the presence of argon gas for 6 hours by heating. After the reaction mixture has reached room temperature, it is filtered and the solvent is distilled off. The residue is dissolved in dichloromethane and washed with 5% aqueous solution of sodium hydroxide and water in this order. It is dried over unhydrous sodium sulfate and purified by column chromatography (eluent: dichloromethane) to obtain 2-(3,4,4-trifluoro-3-butenyl-thio)thiazole (8.6 g) as pale yellow liquid (n20D 1.5200).

reactant | 2-Mercaptothiazole | 5.18 g | SC=1SC=CN1 | C3H3NS2
reactant | potassium carbonate | 6.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-1,1,2-trifluorobutene-1 | 9.21 g | C(CBr)C(=C(F)F)F | C4H4BrF3
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-(3,4,4-trifluoro-3-butenyl-thio)thiazole | 8.6 g | FC(CCSC=1SC=CN1)=C(F)F | C7H6F3NS2
